US08067457B2
N-(2-{[(3R)-1-(3-allyltetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (48)
The title compound was synthesized in similar fashion to N-[2-{(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide, whereby 3-allyltetrahydro-4H-pyran-4-one (prepared according to WO2004041161-A2) was substituted for 1-(6-methoxypyridin-3-yl)piperidin-4-one, and was isolated as a white solid. 1H-NMR (CDCl3) δ: 1.46-1.64 (m, 4H), 2.17-2.29 (m, 5H), 2.53-2.59 (m, 2H), 2.74-2.82 (m, 1H), 3.21-3.33 (m, 2H), 3.80-3.91 (m, 2H), 4.07 (d, J=4.8 Hz, 2H), 4.39-4.41 (m, 1H), 4.90-5.02 (m, 2H), 5.59-5.74 (m, 1H), 6.96-7.04 (m, 1H), 7.45-7.50 (m, 1H), 7.68 (d, J=7.5 Hz, 1H), 7.71-7.75 (m, 1H), 7.95 (d, J=7.5 Hz, 1H), 8.05 (s, 1H). MS m/z: 440 (M+1).

reactant | 3-(trifluoromethyl)benzamide | FC(C=1C=C(C(=O)N)C=CC1)(F)F | C8H6F3NO
reactant | 3-allyltetrahydro-4H-pyran-4-one | C(C=C)C1COCCC1=O | C8H12O2
reactant | 1-(6-methoxypyridin-3-yl)piperidin-4-one | COC1=CC=C(C=N1)N1CCC(CC1)=O | C11H14N2O2
product | N-(2-{[(3R)-1-(3-allyltetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C=C)C1COCCC1N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C22H28F3N3O3
